US04973767
Allyl chloride (97.88 g, 1.28 mol) in dry tetrahydrofuran (500 ml) was added to a suspension of magnesium turnings (60.08 g, 2.47 mol) in dry tetrahydrofuran (50 ml) at such a rate as to maintain steady reflux. The mixture was then heated under reflux for a further hour. 4-Chlorobenzaldehyde (120 g, 854 mmol) in dry tetrahydrofuran (600 ml) was then added dropwise and the mixture refluxed for a further 2 hours. After being cooled to room temperature the mixture was poured into ice/water, carefully acidified with 1M sulphuric acid and extracted with ether. The combined extracts were washed with brine, dried and evaporated in vacuo to give crude 4-(4-chlorophenyl)but-1-en-4-ol (169.4 g approximately 92% pure) which was used without further purification.

reactant | Allyl chloride | 1.28 mol, 97.88 g | C(C=C)Cl | C3H5Cl
reactant | magnesium | 2.47 mol, 60.08 g | [Mg] | Mg
reactant | 4-Chlorobenzaldehyde | 854 mmol, 120 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sulphuric acid | 1M | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)but-1-en-4-ol | 169.4 g approximately, 92% | ClC1=CC=C(C=C1)C(CC=C)O | C10H11ClO
